US08445510B2
5-(5-Chloro-1,3-dimethyl-1H-pyrazol-4-yl)-3-[(1S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridine
A solution of 4-bromo-5-chloro-1,3-dimethyl-1H-pyrazole (0.0219 g, 0.104 mmol), 3-[(S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)-ethyl]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine (0.030 g, 0.070 mmol), potassium carbonate (0.0289 g, 0.209 mmol) and Pd(PPh3)4 (8.04 mg, 0.00697 mmol) in previously degassed 4:1 dioxane:water (1.50 mL) was evacuated and charged with N2 (2×) and heated under microwave conditions [Biotage, 100° C., 30 min, high absorption]. This was further purified by Gilson HPLC resulting in the title compound as white solid. 1H NMR (400 MHz, CD3OD): δ=1.82 (d, J=7.3 Hz, 3H), 2.13 (s, 3H), 3.66 (br. s., 3H), 3.84 (s, 3H), 5.12 (q, J=7.2 Hz, 1H), 6.91 (dd, J=4.2, 9.0 Hz, 1H), 7.09 (dd, J=8.8, 8.8 Hz, 1H), 7.39 (d, J=1.3 Hz, 1H), 7.45 (s, 2H). MS (ES+): m/z 433.03, 435.01 (76/24) [MH+]. HPLC: tR=4.25 min (polar—5 min, ZQ3).

reactant | 4-bromo-5-chloro-1,3-dimethyl-1H-pyrazole | 0.104 mmol, 0.0219 g | BrC=1C(=NN(C1Cl)C)C | C5H6BrClN2
reactant | 3-[(S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)-ethyl]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine | 0.070 mmol, 0.030 g | ClC1=C(C(=CC=C1F)OC)[C@@H](C)C1=CNC2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C | C22H25BClFN2O3
reactant | potassium carbonate | 0.209 mmol, 0.0289 g | C([O-])([O-])=O.[K+].[K+]
catalyst | Pd(PPh3)4 | 0.00697 mmol, 8.04 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-(5-Chloro-1,3-dimethyl-1H-pyrazol-4-yl)-3-[(1S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridine | ClC1=C(C(=NN1C)C)C=1C=C2C(=NC1)NC=C2[C@H](C)C2=C(C(=CC=C2OC)F)Cl | C21H19Cl2FN4O
